US06472486B2
Part A: Preparation of N-tert-Butyl-α-(3-pyridyl) nitrone
To a mixture of N-tert-butylhydroxylamine hydrochloride (2.512 g, 20.0 mmo 1), pyridine-3 -carboxaldehyde (2.144 g, 20.0 mmol), and MgSO4 (2.889 g, 22.0 mmol) was added 100 mL of anhydrous toluene followed by 2.024 g (20.0 mmol/2.79 mL) of Et3N. The reaction mixture was heated to 100-110° C. under argon atmosphere, and the reaction course was followed by t.l.c. and GC/MS. After 3-5 hours, the reaction was cooled to room temperature, Mg SO4 was filtered off, and the solvent was evaporated under reduced pressure to yield a dark yellow-green mixture of product and Et3N.HCl. The crystals were dissolved in EtOAc and the solution was subsequently washed with saturated aqueous NaHCO3, water and saturated aqueous NaCl, dried (MgSO4 or Na2SO4, ca. 30 min), filtered, and evaporated under reduced pressure. The crude product was purified by passing through a short plug of silica gel (1:1 EtOAc/hexanes) to yield after evaporation 3.00 g (84%) of a pale yellow solid. TLC (1:9 EtOAc/hexanes): Rf=0.61; GC: Rt: 3.92 min; MS: 178 (M+.), 147, 122 (b.p.), 106, 79, 57; 1H NMR (300 MHZ, CDCl3): D=1.54 (s, 9H, C(CH3)3), 7.31 (dd, J=8.1,4.8 Hz, 1H, C(5)-H), 7.56 (s, 1H, HC=N), 8.53 (dd, J=4.8,1.8 Hz, 1H, C(6)-H), 8.93 (d, J=1.8 Hz, 1H, C(2)-H), 9.06 (dt, J=8.4,1.8 Hz, 1H, C(4)-H) ppm; 13C NMR (75 MHZ, CDCl3): D=28.24 71.43, 123.40, 126.91, 127.49, 134.57, 150.09, 150.20 ppm.

reactant | N-tert-butylhydroxylamine hydrochloride | 2.512 g | Cl.C(C)(C)(C)NO
reactant | pyridine-3 -carboxaldehyde | 20.0 mmol, 2.144 g | N1=CC(=CC=C1)C=O | C6H5NO
reactant | MgSO4 | 22.0 mmol, 2.889 g | [O-]S(=O)(=O)[O-].[Mg+2]
reactant | Et3N | 20.0 mmol, 2.79 mL, 2.024 g | CCN(CC)CC | C6H15N
reactant | Et3N.HCl | N(CC)(CC)CC.Cl
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | N-tert-Butyl-α-(3-pyridyl) nitrone | C(C)(C)(C)[N+](=CC=1C=NC=CC1)[O-] | C10H14N2O
